US04981506
3-Chloro-2-[(phenylmethyl)thio]benzaldehyde
To a suspension of 112.1 g of potassium-t-butoxide in 1000 mL of dimethylformamide under a nitrogen atmosphere, 124.3 g of benzylmercaptan was added dropwise while maintaining the reaction temperature at 20°-25° C. with an ice-water bath. After stirring at 25° C. for 1.5 hours, a solution of 175 g of 2,3-dichlorobenzaldehyde dissolved in 750 mL of N,N-dimethylformamide was added dropwise, while maintaining the reaction temperature at 25°-40° with a water bath. After stirring at 25° C. for 12 hours, the reaction mixture was poured onto excess ice water to yield a precipitate. The suspension was filtered, and the isolated solid was washed with water, suction-dried and finally dried in vacuo at 40° C. overnight to afford 201 g of the title compound as a light yellow solid; m.p. 65°-68° C.

reactant | potassium-t-butoxide | 112.1 g | CC(C)([O-])C.[K+]
reactant | benzylmercaptan | 124.3 g | C(C1=CC=CC=C1)S | C7H8S
reactant | 2,3-dichlorobenzaldehyde | 175 g | ClC1=C(C=O)C=CC=C1Cl | C7H4Cl2O
solvent | dimethylformamide | 1000 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 750 mL | CN(C=O)C | C3H7NO
product | 3-Chloro-2-[(phenylmethyl)thio]benzaldehyde | 201 g | ClC=1C(=C(C=O)C=CC1)SCC1=CC=CC=C1 | C14H11ClOS
